* source LAB2_PROJECT
V_V1         N00092 0 10Vdc
D_D1         N00092 N00457 Dbreak 
D_D2         N00457 N00461 Dbreak 
D_D3         N00461 N00465 Dbreak 
R_R1         0 N00465  1k TC=0,0 
